US06720324B2
TERT-BUTYL 4-[3-(ACETYLAMINO)PHENYL]-1-PIPERIDINECARBOXYLATE:
A mixture tert-butyl 4-[3-(acetylamino)phenyl]-1,2,3,6-tetra-hydro-1-pyridinecarboxylate (710 mg) and 5% Pd/C (100 mg) in EtOH (10 mL) was hydrogenated (balloon technique) at room temperature overnight. The reaction mixture was passed through a pad of Celite 545 and the pad of Celite was washed with ethanol. The combined ethanol extracts were concentrated and chromatograghed, giving the desired product (660 mg). 1H NMR δ 7.80 (s, 1 H), 7.41-7.20 (m, 3 H), 6.94 (d, 1 H, J=7.5 Hz), 4.21 (m, 2 H), 2.75 (m, 2 H), 2.62 (m, 1 H), 2.16 (s, 3 H), 1.78 (m, 2 H), 1.56 (m, 2 H), 1.48 (s, 9 H).

reactant | tert-butyl 4-[3-(acetylamino)phenyl]-1,2,3,6-tetra-hydro-1-pyridinecarboxylate | 710 mg | C(C)(=O)NC=1C=C(C=CC1)C=1CCN(CC1)C(=O)OC(C)(C)C | C18H24N2O3
reactant | Celite 545 | O=[Si]=O | O2Si
solvent | EtOH | 10 mL | CCO | C2H6O
catalyst | Pd/C | 100 mg | [Pd] | Pd
product | TERT-BUTYL 4-[3-(ACETYLAMINO)PHENYL]-1-PIPERIDINECARBOXYLATE | 660 mg | C(C)(=O)NC=1C=C(C=CC1)C1CCN(CC1)C(=O)OC(C)(C)C | C18H26N2O3
